US05344843
A mixture of 4-[[2-(cyclooctyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.3 g) in methanol (10 mL) and 0.5N sodium hydroxide (4 mL) was treated as in Example 19. Extraction with dichloromethane provided material which was crystallized from diethyl ether-hexane to give 0.22 g of colorless 4-[[2-(cyclooctyloxy)ethyl]oxy]-alphaoxobenzeneacetic acid, mp 64°-65° C.

reactant | 4-[[2-(cyclooctyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.3 g | COC(C(C1=CC=C(C=C1)OCCOC1CCCCCCC1)=O)=O | C19H26O5
solvent | methanol | 10 mL | CO | CH4O
solvent | sodium hydroxide | 0.5N, 4 mL | [OH-].[Na+]
product | 4-[[2-(cyclooctyloxy)ethyl]oxy]-alphaoxobenzeneacetic acid | 0.22 g | C1(CCCCCCC1)OCCOC1=CC=C(C=C1)C(C(=O)O)=O | C18H24O5
